US09388176B2
4-(2-Methylsulfanyl-5,7-dihydro-pyrrolo[3,4-d]pyrimidin-6-yl)-pyridine-2-carboxylic acid (4-trifluoromethyl-phenyl)-amide
In a manner similar to that describe in Example 126, 2-(methylthio)-6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidine and 4-Bromo-N-(4-(trifluoromethyl)phenyl)picolinamide were converted to the title compound.

reactant | 2-(methylthio)-6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidine | CSC=1N=CC2=C(N1)CNC2 | C7H9N3S
reactant | 4-Bromo-N-(4-(trifluoromethyl)phenyl)picolinamide | BrC1=CC(=NC=C1)C(=O)NC1=CC=C(C=C1)C(F)(F)F | C13H8BrF3N2O
product | 4-(2-Methylsulfanyl-5,7-dihydro-pyrrolo[3,4-d]pyrimidin-6-yl)-pyridine-2-carboxylic acid (4-trifluoromethyl-phenyl)-amide | FC(C1=CC=C(C=C1)NC(=O)C1=NC=CC(=C1)N1CC=2N=C(N=CC2C1)SC)(F)F | C20H16F3N5OS
